US06794336B2
5b) 2-(3-Trifluoromethylphenyloxy)-6-(aminomethyl)-pyridine
3.00 g (11.4 mmol) of 2-(3-trifluoromethylphenyloxy)-6-cyanopyridine were dissolved in 120 ml of acetic acid, 300 mg of Pd (OH)2, 20% on charcoal, were added, and the mixture was hydrogenated at a hydrogen pressure of 17 bar for 3 h at room temperature. The catalyst was then removed by filtration, the organic phase was concentrated and the residue was taken up in water. This solution was washed with ethyl acetate, then adjusted to a pH of 10 using 2 N NaOH, and subjected to repeated extraction with ethyl acetate. The combined organic extracts were dried over MgSO4 and then evaporated to dryness.

reactant | 2-(3-trifluoromethylphenyloxy)-6-cyanopyridine | 11.4 mmol, 3.00 g | FC(C=1C=C(C=CC1)OC1=NC(=CC=C1)C#N)(F)F | C13H7F3N2O
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 2-(3-Trifluoromethylphenyloxy)-6-(aminomethyl)-pyridine | FC(C=1C=C(C=CC1)OC1=NC(=CC=C1)CN)(F)F | C13H11F3N2O
